US09034880B2
Preparation of 8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carbaldehyde (Compound 517)
The title compound is prepared from a mixture of 3,4-dihydro-8-methyl-1H-pyrido[4,3-b]indole-2(5H)-carbaldehyde, 2-methyl-5-vinylpyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 3,4-dihydro-8-methyl-1H-pyrido[4,3-b]indole-2(5H)-carbaldehyde | CC1=CC=2C3=C(NC2C=C1)CCN(C3)C=O | C13H14N2O
reactant | 2-methyl-5-vinylpyridine | CC1=NC=C(C=C1)C=C | C8H9N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carbaldehyde | CC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)C=O | C21H23N3O
